* Example SPICE netlist for the provided schematic
? Missing component
* Resistors
R1 1 4 10k
R2 5 3 10k
R3 4 6 10k
R4 6 2 10k
* Capacitors
C1 6 5 1u
C2 3 2 1u
* Op-Amps
* Assuming ideal op-amps
XU1 4 5 0 OpAmp
XU2 5 3 0 OpAmp
* Inverter (modeled as an ideal inverter with gain -1)
* Assuming you have a defined subcircuit for an ideal inverter
XINV 2 X Inverter
.ends
* Subcircuit definitions for ideal components
.subckt OpAmp + - out
* Define your op-amp model here
.ends OpAmp
.subckt Inverter in out
* Define your inverter model here
.ends Inverter
